US05011839
4-Chloro-5-(4-methoxy-1-naphthylmethylamino)-3(2H)pyridazinone (Compound No. 5)
A mixture comprising 330 mg of 4,5-dichloro-3(2H)pyridazinone, 1.12 g of 4-methoxy-1-naphthylmethylamine and 30 ml of ethanol, was refluxed under stirring overnight. The solvent was evaporated under reduced pressure, and a mixture of ethyl acetate and ethyl ether was poured to the residue, whereupon precipitated crystals were collected by filtration. The product was recrystallized from a mixture of methanol/water to obtain 410 mg of the above identified command as slightly yellow crystals having a melting point of from 265° to 266° C.

reactant | 4,5-dichloro-3(2H)pyridazinone | 330 mg | ClC=1C(NN=CC1Cl)=O | C4H2Cl2N2O
reactant | 4-methoxy-1-naphthylmethylamine | 1.12 g | COC1=CC=C(C2=CC=CC=C12)CN | C12H13NO
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-Chloro-5-(4-methoxy-1-naphthylmethylamino)-3(2H)pyridazinone | ClC=1C(NN=CC1NCC1=CC=C(C2=CC=CC=C12)OC)=O | C16H14ClN3O2
